US04617316
Step B: 2-(2-Methoxy-4-nitrophenyl)-5-trifluoromethylthiophene
A stirred solution of 8.0 g (0.026 mole) of 2-bromo-5-(2-methoxy-4-nitrophenyl)thiophene, 13.9 g (0.1 mole) of sodium trifluoroacetate and 9.7 g (0.05 mole) of copper(I)iodide in 160 ml of dry N,N-dimethylacetamide was heated at 175° C. for four hours. The reaction mixture was cooled to room temperature then poured into 400 ml of 2N hydrochloric acid and ice (approximately 1:1). Methylene chloride was added and the resultant mixture filtered. The filtrate separated into two phases. The organic phase was separated then washed with three portions of 2N hydrochloric acid and one portion of water. The washed organic phase was dried over anhydrous sodium sulfate, filtered, and the filtrate evaporated to leave a residue. The residue was subjected to column chromatography on silica gel, eluting with toluene, to yield 1.8 g of a mixture of 2-(2-methoxy-4-nitrophenyl)-5-trifluoromethylthiophene and 2-(2-methoxy-4-nitrophenyl)thiophene.

reactant | 2-bromo-5-(2-methoxy-4-nitrophenyl)thiophene | 0.026 mole, 8.0 g | BrC=1SC(=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C11H8BrNO3S
reactant | sodium trifluoroacetate | 0.1 mole, 13.9 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | hydrochloric acid | 2N, 400 ml | Cl | ClH
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylacetamide | 160 ml | CN(C(C)=O)C | C4H9NO
catalyst | copper(I)iodide | 0.05 mole, 9.7 g | [Cu]I
product | 2-(2-Methoxy-4-nitrophenyl)-5-trifluoromethylthiophene | 1.8 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC(=CC1)C(F)(F)F | C12H8F3NO3S
